* gnetlist -g spice-noqsi -o test_inverter.net test_inverter.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
X1 IN OUT  INV1 
V1 IN GND pulse 0 Vdd 10n 1n 1n 1u 2u
.GLOBAL Vdd Vss
Vd Vdd GND DC 1.2V
Vs Vss GND DC 0V
